US20010041726A1
4a. 2-{1-[(4-Chlorophenyl)methyl]-5-methoxy-2-methylindol-3-yl}ethan-1-ol
A solution of indomethacin (10 g, 28 mmol) in THF (90 mL) was immersed in an ice bath to maintain an internal temperature of 10-15° C. To this solution was added BF3-Et2O (30 mL, 230 mmol) over 5 min, resulting in the formation of a precipitate. Sodium borohydride (4.2 g, 110 mmol) was added portionwise over 10 min resulting in vigorous effervescence. After gas evolution subsided the flask was stoppered and allowed to warm to room temperature. After 1 hour the pressure was vented through a needle. The heterogeneous mixture was stirred for 6 hours. The mixture was cooled in an ice bath and was quenched by adding saturated NaHCO3. To break the resultant emulsion the mixture was made acidic with 1N HCl and extracted with a 3:1 mixture of Et2O:Hexane (270 mL). The organic layer was washed with brine, dried over Na2SO4, and evaporated. The residue was taken up in a 3:1 mixture of hot Hex:EtOAc (80 mL). Upon cooling to room temperature, crystals began to form. Crystallization was completed by cooling to −20° C. The solid was removed by filtration, washed with cold 3:1 Hex:EtOAc (2×25), Hexane (1×25) and dried in vacuo. This gave the title compound (4.5 g, 49%) as a white solid. mp 113-115° C. 1H-NMR (300 MHz, CDCl3) δ7.24 (d, J=8.4 Hz, 2H), 7.06 (d, J=9.1 Hz, 1H), 7.03 (d, J=3.5 Hz, 1H), 6.87 (d, J=8.3 Hz, 2H), 6.78 (dd, J=2.4 and 8.7 Hz, 1H), 5.23 (s, 2H), 3.86 (s, 3H), 3.84 (t, J=6.5 Hz, 2H), 2.99 (t, J=6.5 Hz, 2H), 2.29 (s, 3H); mass spectrum (API-TIS) m/z 330 (MH+). Anal calcd for C19H20ClNO2: C, 69.19; H, 6.11; N, 4.25; Cl, 10.75. Found: C, 68.98; H, 6.30; N, 4.08; Cl, 10.60.

reactant | indomethacin | 28 mmol, 10 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | BF3 Et2O | 230 mmol, 30 mL | B(F)(F)F.CCOCC
reactant | Sodium borohydride | 110 mmol, 4.2 g | [BH4-].[Na+]
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2-{1-[(4-Chlorophenyl)methyl]-5-methoxy-2-methylindol-3-yl}ethan-1-ol | 4.5 g, 49% | ClC1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)OC)CCO)C | C19H20ClNO2
